Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Ace Inhibitors
 
Attending: ___.
 
Chief Complaint:
toe infection and dyspnea
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ hx Periperal vascular disease, venous insufficiency, 
pre-diabetes, HLD, HTN, aortic stenosis presents with 
discoloration of L ___ toe and worsening dyspnea. Pt noticed 
purple- black hue to left ___ toe with skin abrasion yesterday 
and concerned about gangrene so came to the ___, denies pain or 
tenderness to palpation but noted toe hurts when wearing shoes. 
Does not recall any traumatic incidents but did lose R great 
toenail a few weeks ago not clear how. Reports decreased 
sensation on his soles bilaterally. Denies fevers, chills or 
sweats.  

Pt also reports increased dyspnea over the past 3 months, was 
able to walk a couple hundred feet without getting dyspneic but 
hasn't been able to over the past few weeks. Pt attributes this 
to decreased exercise due to worsening R ankle pain from bicycle 
injury when he was ___ and from ___ cyst on his knee ___ 
___ that prevented him from using his stationary bike. 
Endorses PND for the past ___ years, sleeps ___ a recliner. 
Endorses worsening bilateral lower extremity edema despite an 
increased dose of Lasix ___ ___ 40mg qD (60mg every third 
day). Denies chest pain, palpitations, endorses one episode of 
lightheadedness 1 week ago but attributes to heat and hasn't 
happened since a year ago. Occurred while standing.

ROS: + cough  
- nausea, vomiting 
 
___ the ___ initial vitals were: T97.9, HR 108, BP 135/55, RR 18, 
98% RA.

Exam was notable for clear lungs, 2+ ___ edema/erythema to shins, 
dopplerable ___ pulses with discoloration of the L ___ + ___ 
toe, and loss of R great toe nail.

Labs/studies notable for: WBC 11.9 (PMNs 76%), Cr 1.3 (stable 
from ___, trop 0.07 -> 0.06, BNP 1507 (new). Normal coags, 
lactate 1.6. UA w/o evidence of infection. CRP elevated at 25.2. 
Blood cx and wound swab obtained. Of note, no EKG on dash or ___ 
paperwork with patient ___ ___. 
 
Past Medical History:
- obesity
- HTN 
- Hyperlipidemia
- ADD 
- right ankle fusion approximately ___ years ago
- obstructive sleep apnea
- glucose intolerance 
- basal cell carcinomas 
- appendectomy 
- tonsillectomy
- heart murmur (unknown etiology) but TTE ___ ___ showed nl valves
- two episodes of possible head injury one at age ___ associated
with falling off his bike and hitting his head w/ LOC. He had
multiple fractures and injuries from this, including a R arm
fracture w/ contracture and the R ankle fusion listed above. The
second episode occurred later when he fell off a wall and hit 
his
head with LOC. He sustained a broken arm 

 
Social History:
___
Family History:
Family History:
 no hx of neurological do's including sz or stroke
-mother: lung CA
-father: MI heart attack at ___ still alive
-Sister: HLD, obesity, breast cancer
-Brother: "had to see a psychiatrist" to cope with "being gay"
-great grandaunt with stroke and heart attack also at ___
 
Physical Exam:
Admission:
PHYSICAL EXAM:
VS: 98.4 BP 122/70 HR 85 RR 18 98% RA
GENERAL: obese male lying ___ bed ___ NAD
HEENT: NCAT. Sclera anicteric. PER, EOMI. Conjunctiva were pink, 
no pallor or cyanosis of the oral mucosa.
NECK: Supple with JVP of ~10cm at 45deg
CARDIAC: RRR, ___ systolic murmur best appreciated at LUSB 
LUNGS: No chest wall deformities, scoliosis or kyphosis. CTAB 
without any basilar crackles
ABDOMEN: Obese. Normal bowel sounds.  Soft, NTND. No HSM or 
tenderness.
EXTREMITIES: 2+ pitting edema bilaterally to knee. L ___ toe 
with betadine dressing as recently debrided by podiatry ___ ___ - 
per their note, was ulceration with minor amount of purulent 
drainange following debridement but did not probe to bone. No 
clear surrounding erythema.
PULSES: Dopplearble. 

Discharge PHYSICAL EXAM: 
VS: T: 98.5 BP 108-147/57-75 HR ___ RR 20 98% 
I/O: 120/120 and 24hr 1130/3220
Weight: 137.7 <-- 138.2 kg
GENERAL: obese male lying ___ bed ___ NAD
HEENT: NCAT. Sclera anicteric. PER, EOMI. Conjunctiva were pink, 
no pallor or cyanosis of the oral mucosa.
NECK: Supple, no lymphadenopathy 
CARDIAC: RRR, ___ systolic murmur best appreciated at LUSB 
LUNGS: No chest wall deformities, scoliosis or kyphosis. CTAB 
without any basilar crackles
ABDOMEN: Obese. Normal bowel sounds. Soft, NTND. No HSM or 
tenderness.
EXTREMITIES: trace edema bilaterally to knee. L ___ toe with 
betadine dressing. 
 
Pertinent Results:
=======ADMISISON LABS=========

___ 05:00PM BLOOD WBC-11.9* RBC-4.60 Hgb-14.2 Hct-42.6 
MCV-93 MCH-30.9 MCHC-33.3 RDW-13.4 RDWSD-45.0 Plt ___
___ 05:00PM BLOOD Neuts-76.2* Lymphs-11.8* Monos-7.9 
Eos-2.7 Baso-0.8 Im ___ AbsNeut-9.07* AbsLymp-1.41 
AbsMono-0.94* AbsEos-0.32 AbsBaso-0.09*
___ 05:00PM BLOOD ___ PTT-30.8 ___
___ 05:00PM BLOOD Glucose-110* UreaN-19 Creat-1.3* Na-134 
K-4.7 Cl-97 HCO3-25 AnGap-17
___ 05:00PM BLOOD cTropnT-0.07* proBNP-1507*
___ 11:20PM BLOOD %HbA1c-6.1* eAG-128*
___ 11:20PM BLOOD CRP-25.2*
___ 05:22PM BLOOD Lactate-1.6

========Pertinent Interval/DISCHARGE Labs========

___ 06:15AM BLOOD WBC-12.0* RBC-4.60 Hgb-14.2 Hct-42.3 
MCV-92 MCH-30.9 MCHC-33.6 RDW-13.2 RDWSD-43.3 Plt ___
___ 06:15AM BLOOD Glucose-116* UreaN-25* Creat-1.6* Na-131* 
K-4.4 Cl-92* HCO3-24 AnGap-19
___ 06:15AM BLOOD Calcium-9.7 Phos-3.6 Mg-2.1
___ 05:37AM BLOOD calTIBC-333 Ferritn-225 TRF-256
___ 11:20PM BLOOD %HbA1c-6.1* eAG-128*
___ 05:37AM BLOOD TSH-3.9
___ 11:20PM BLOOD CRP-25.2*
___ 11:20PM BLOOD SED RATE- 14
___ 11:20PM URINE Color-Straw Appear-Clear Sp ___
___ 11:20PM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.0 Leuks-MOD
___ 11:20PM URINE RBC-1 WBC-3 Bacteri-NONE Yeast-NONE 
Epi-<1
___ 11:20PM URINE CastHy-3*
___ 11:20PM URINE Mucous-RARE

========Imaging Studies============
___- Left foot x-ray (prelim)
Irregularity, areas of lucency, and cortical destruction 
involving the medial greater than lateral head of the first 
metatarsal is highly worrisome for acute osteomyelitis. 
Involvement of the base of the first proximal phalanx not 
excluded. Correlate with any history of gout. Extensive soft 
tissue swelling.

___ CXR: Central pulmonary vascular congestion without overt 
pulmonary edema

___ non-invasive arterial exam
 
All waveforms are triphasic from the femoral to the dorsalis 
pedis artery.  Pulse volume recordings are normal.  The right 
ABI is 1.1.  The left is 1.05.  
Impression normal arterial Doppler study of both lower 
extremities at rest 

___ TTE
The left atrium is mildly dilated. No atrial septal defect is 
seen by 2D or color Doppler. The estimated right atrial pressure 
is ___ mmHg. There is mild symmetric left ventricular 
hypertrophy with normal cavity size and global systolic function 
(LVEF>55%). Due to suboptimal technical quality, a focal wall 
motion abnormality cannot be fully excluded. Tissue Doppler 
imaging suggests an increased left ventricular filling pressure 
(PCWP>18mmHg). The aortic arch is mildly dilated. The aortic 
valve leaflets are moderately thickened. There is moderate 
aortic valve stenosis (valve area 1.0 cm2). No aortic 
regurgitation is seen. The mitral valve leaflets are 
structurally normal. No mitral regurgitation is seen. [Due to 
acoustic shadowing, the severity of mitral regurgitation may be 
significantly UNDERestimated.] There is mild pulmonary artery 
systolic hypertension. There is a trivial/physiologic 
pericardial effusion. 
 IMPRESSION: Suboptimal image quality. Moderate aortic valve 
stenosis. Mild symmetric left ventricular hypertrophy with 
preserved global biventricular systolic function. Mild PA 
systolic hypertension. Increased PCWP.  Compared with the prior 
study (images reviewed) of ___, the overall findings are 
similar.  There is a surprisingly low transmitral A wave. ___ the 
presence of relatively low voltage on the ECG, an infiltrative 
process should be considered. 

 CLINICAL IMPRESSION: 
 The patient has moderate to severe aortic valve stenosis. Based 
on ___ ACC/AHA Valvular Heart Disease Guidelines, if the 
patient is asymptomatic, a follow-up echocardiogram is suggested 
every year. 

========Microbiology============
___ Blood cultures x2 - pending 
___ 12:26 am SWAB      Source: L ___ toe . 

   GRAM STAIN (Final ___: 
      2+   ___ per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES. 
      3+  ___ per 1000X FIELD):   GRAM POSITIVE COCCI. 
                                    ___ PAIRS AND CLUSTERS. 

   WOUND CULTURE (Preliminary): 
      STAPH AUREUS COAG +.    HEAVY GROWTH. 

   ANAEROBIC CULTURE (Preliminary):    NO ANAEROBES ISOLATED. 

 
Brief Hospital Course:
___ hx PVD, venous insufficiency, pre-diabetes, HLD, HTN, aortic 
stenosis who presents with a toe ulcer and CHF with a stable 
ECHO from ___ with acute CHF exacerbation most likely from 
dietary changes with improved dyspnea and edema following IV 
diuresis 40mg BID Lasix.

___ Edema ___ acute on chronic CHF - No evidence of acute 
ischemia on ECG. No major change on TTE. Worsening volume 
overload likely triggered by increased sodium intake over past 
several months. Discharged on 60mg PO Lasix daily. Received 
heart failure diet education.

#Troponinemia - patient with mild troponinemia of 0.06 ___ ___. 
Has not had any chest pain and no EKG changes. Low suspicion for 
ACS and likely ___ CKD and CHF. Continued home simvastatin and 
started on ASA 81mg daily

#Toe SST-Infection - evaluated ___ ___ by vascular surgery and 
podiatry. Podiatry evaluated foot ulcer, no probe to bone, 
appears superficial. Initially treated with clindamycin and 
ciprofloxacin ___ ___ complete a 10 day course of PO 
Bactrim/Keflex on ___. Negative ABIs evaluating for 
peripheral vascular disease. 

# CKD: patient with persistent Cr 1.3 over the past few months. 
___ be related to high-dose celecoxib vs furosemide vs CHF. Mild 
increase with IV diuresis. Should be rechecked as outpatient. 
Recommended patient discontinue celecoxib and other nephrotoxic 
agents. Pt did not receive or request celecoxib while inpatient.

CHRONIC ISSUES:
#ADD - held home Adderall while inpatient
#HTN - cont home valsartan 160mg qD, would consider holding if 
worsening renal function
#Chronic pain - cont home Hydrocodone/Tylenol; hold home 
celecoxib
#Psych - cont home Aripiprazole 2mg qD
#HLD - cont home Simvastatin 20mg qHS
#Def - cont home MVi

TRANSITIONAL ISSUES:
-discharge weight 137.7kg
-discharged on 60mg PO Lasix daily
-Check Chem7 on ___ to evaluate for renal recovery, titrate 
diuretic regimen, discharge cr 1.6
-pt to complete total 10 day course of Bactrim/Keflex for toe 
ulcer, no evidence of osteomyelitis. Day 10 = ___
-Full Code
-HCP: ___, wife, ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. dextroamphetamine-amphetamine 20 mg oral BID 
2. testosterone 1 % (50 mg/5 gram) transdermal qOD 
3. Valsartan 160 mg PO DAILY 
4. ARIPiprazole 2 mg PO DAILY 
5. Celecoxib 400 mg ORAL QD pain 
6. Simvastatin 20 mg PO QPM 
7. Multivitamins 1 TAB PO DAILY 
8. tadalafil 5 mg oral PRN sexual activity 
9. Albuterol Inhaler 2 PUFF IH Q6H:PRN sob/wheeze 
10. Furosemide 40 mg PO DAILY 
11. HYDROcodone-Acetaminophen (5mg-325mg) 2 TAB PO QD:PRN pain 

 
Discharge Medications:
1. Furosemide 60 mg PO DAILY 
2. Albuterol Inhaler 2 PUFF IH Q6H:PRN sob/wheeze 
3. ARIPiprazole 2 mg PO DAILY 
4. HYDROcodone-Acetaminophen (5mg-325mg) 2 TAB PO QD:PRN pain 
5. Multivitamins 1 TAB PO DAILY 
6. Simvastatin 20 mg PO QPM 
7. Valsartan 160 mg PO DAILY 
8. Sulfameth/Trimethoprim DS 1 TAB PO BID 
RX *sulfamethoxazole-trimethoprim 800 mg-160 mg 1 tablet(s) by 
mouth twice daily Disp #*16 Tablet Refills:*0
9. Cephalexin 500 mg PO Q6H 
RX *cephalexin 500 mg 1 tablet(s) by mouth every 6 hours Disp 
#*32 Tablet Refills:*0
10. Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0
11. dextroamphetamine-amphetamine 20 mg oral BID 
12. tadalafil 5 mg oral PRN sexual activity 
13. testosterone 1 % (50 mg/5 gram) transdermal qOD 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary:
Acute on chronic heart failure with preserved ejection fraction
Toe ulcer

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure caring for you at ___ 
___. 

You were admitted with worsening heart failure. While you were 
here, we gave you diuretics, which are medications to help you 
urinate. First, we did this through your IV and then we switched 
you to an oral regimen. 

At discharge, you weighed 303 pounds. It is very important that 
you weigh yourself every morning before getting dressed and 
after going to the bathroom. Call your doctors if your ___ 
goes up by more than 3 lbs ___ 1 day or more than 5 lbs ___ 3 
days.

You were also found to have an infection of your toe. You were 
evaluated by the foot doctors who did not feel the infection 
involved the bone. You will treated with antibiotics and 
improved, and will complete these at home.

We wish you all the best, 

Your ___ Cardiology team

 
Followup Instructions:
___